US06200976B1
c. 4-[(4-methyl-quinazolin-2-yl)-amino]-benzonitrile
Prepared analogously to Example 30a from 2-chloro-4-methyl-quinazoline and 4-aminobenzonitrile in glacial acetic acid.

reactant | 2-chloro-4-methyl-quinazoline | ClC1=NC2=CC=CC=C2C(=N1)C | C9H7ClN2
reactant | 4-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[(4-methyl-quinazolin-2-yl)-amino]-benzonitrile | CC1=NC(=NC2=CC=CC=C12)NC1=CC=C(C#N)C=C1 | C16H12N4
